### PR TITLE
[Merged by Bors] - feat: port/Computability.Primrec

### PR DESCRIPTION
**Pull request by prakol16**
---

- used to depend on: #1733 While this depends on `logic.equiv.array`, which was marked as low priority in [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Logic.2EEquiv.2EArray), it only depends on it in a very minor way (I think to give a primcodable instance on arrays, which is not even used later. Most of the port should be able to proceed without that lemma.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1733
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by prakol16** [comment]
Removing the blocked-by-other-PR label because it seems like we don't need to array primcodable instance anyway (I've commented it out for now). See discussion [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Porting.20Logic.2EEquiv.2EArray.20for.20Primrec).

File: Mathlib/Computability/Primrec.lean [hunk 1]
```diff
@@ -0,0 +1,1618 @@
...
+import Mathlib.Logic.Equiv.List
+import Mathlib.Logic.Function.Iterate
+
+/-!
+# The primitive recursive functions
+
+The primitive recursive functions are the least collection of functions
+`nat → nat` which are closed under projections (using the mkpair
+pairing function), composition, zero, successor, and primitive recursion
+(i.e. nat.rec where the motive is C n := nat).
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:20]:
```suggestion
`ℕ → ℕ` which are closed under projections (using the mkpair
pairing function), composition, zero, successor, and primitive recursion
(i.e. Nat.rec where the motive is C n := ℕ).
```

File: Mathlib/Computability/Primrec.lean [hunk 2]
```diff
@@ -0,0 +1,1618 @@
...
+
+We can extend this definition to a large class of basic types by
+using canonical encodings of types as natural numbers (Gödel numbering),
+which we implement through the type class `encodable`. (More precisely,
+we need that the composition of encode with decode yields a
+primitive recursive function, so we have the `primcodable` type class
+for this.)
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:27]:
```suggestion
which we implement through the type class `Encodable`. (More precisely,
we need that the composition of encode with decode yields a
primitive recursive function, so we have the `Primcodable` type class
for this.)
```

File: Mathlib/Computability/Primrec.lean [hunk 3]
```diff
@@ -0,0 +1,1618 @@
...
+namespace Primcodable
+
+open Nat.Primrec
+
+instance (priority := 10) ofDenumerable (α) [Denumerable α] : Primcodable α :=
+  ⟨Nat.Primrec.succ.of_eq <| by simp⟩
+#align primcodable.of_denumerable Primcodable.ofDenumerable
+
+/-- Builds a `primcodable` instance from an equivalence to a `primcodable` type. -/
+def ofEquiv (α) {β} [Primcodable α] (e : β ≃ α) : Primcodable β :=
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:167]:
```suggestion
/-- Builds a `Primcodable` instance from an equivalence to a `Primcodable` type. -/
def ofEquiv (α) {β} [Primcodable α] (e : β ≃ α) : Primcodable β :=
```

File: Mathlib/Computability/Primrec.lean [hunk 4]
```diff
@@ -0,0 +1,1618 @@
...
+  (prec (const 1) (mul.comp (pair (right.comp right) left))).of_eq fun p => by
+    simp; induction p.unpair.2 <;> simp [*, pow_succ]
+#align nat.primrec.pow Nat.Primrec.pow
+
+end Primrec
+
+end Nat
+
+/-- A `primcodable` type is an `encodable` type for which
+  the encode/decode functions are primitive recursive. -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:151]:
```suggestion
/-- A `Primcodable` type is an `Encodable` type for which
  the encode/decode functions are primitive recursive. -/
```

File: Mathlib/Computability/Primrec.lean [hunk 5]
```diff
@@ -0,0 +1,1618 @@
...
+  ⟨(cases1 1 (cases1 2 zero)).of_eq fun n => match n with
+    | 0 => rfl
+    | 1 => rfl
+    | (n + 2) => by rw [decode_ge_two] <;> simp⟩
+#align primcodable.bool Primcodable.bool
+
+end Primcodable
+
+/-- `primrec f` means `f` is primitive recursive (after
+  encoding its input and output as natural numbers). -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:202]:
```suggestion
/-- `Primrec f` means `f` is primitive recursive (after
  encoding its input and output as natural numbers). -/
```

File: Mathlib/Computability/Primrec.lean [hunk 6]
```diff
@@ -0,0 +1,1618 @@
...
+      (cases1 (encode a).succ <| dom_denumerable.1 <| list_get?₁ l).of_eq fun n => by
+        cases n <;> simp
+#align primrec.list_nth₁ Primrec.list_get?₁
+
+end Primrec
+
+/-- `primrec₂ f` means `f` is a binary primitive recursive function.
+  This is technically unnecessary since we can always curry all
+  the arguments together, but there are enough natural two-arg
+  functions that it is convenient to express this directly. -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:384]:
```suggestion
/-- `Primrec₂ f` means `f` is a binary primitive recursive function.
  This is technically unnecessary since we can always curry all
  the arguments together, but there are enough natural two-arg
  functions that it is convenient to express this directly. -/
```

File: Mathlib/Computability/Primrec.lean [hunk 7]
```diff
@@ -0,0 +1,1618 @@
...
+def Primrec₂ {α β σ} [Primcodable α] [Primcodable β] [Primcodable σ] (f : α → β → σ) :=
+  Primrec fun p : α × β => f p.1 p.2
+#align primrec₂ Primrec₂
+
+/-- `primrec_pred p` means `p : α → Prop` is a (decidable)
+  primitive recursive predicate, which is to say that
+  `to_bool ∘ p : α → bool` is primitive recursive. -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:391]:
```suggestion
/-- `PrimrecPred p` means `p : α → Prop` is a (decidable)
  primitive recursive predicate, which is to say that
  `toBool ∘ p : α → Bool` is primitive recursive. -/
```

File: Mathlib/Computability/Primrec.lean [hunk 8]
```diff
@@ -0,0 +1,1618 @@
...
+def PrimrecPred {α} [Primcodable α] (p : α → Prop) [DecidablePred p] :=
+  Primrec fun a => decide (p a)
+#align primrec_pred PrimrecPred
+
+/-- `primrec_rel p` means `p : α → β → Prop` is a (decidable)
+  primitive recursive relation, which is to say that
+  `to_bool ∘ p : α → β → bool` is primitive recursive. -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:398]:
```suggestion
/-- `PrimrecRel p` means `p : α → β → Prop` is a (decidable)
  primitive recursive relation, which is to say that
  `toBool ∘ p : α → β → Bool` is primitive recursive. -/
```

File: Mathlib/Computability/Primrec.lean [hunk 9]
```diff
@@ -0,0 +1,1618 @@
...
+warning: primrec.and -> Primrec.and is a dubious translation:
+lean 3 declaration is
+  forall {α : Type.{u_1}} [_inst_1 : Primcodable.{u_1} α] {p : α -> Prop} {q : α -> Prop}
+  [_inst_6 : DecidablePred.{succ u_1} α p] [_inst_7 : DecidablePred.{succ u_1} α q],
+  (PrimrecPred.{u_1} α _inst_1 p (fun (a : α) => _inst_6 a)) -> (PrimrecPred.{u_1} α _inst_1 q
+    (fun (a : α) => _inst_7 a)) -> (PrimrecPred.{u_1} α _inst_1 (fun (a : α) => And (p a) (q a))
+    (fun (a : α) => And.decidable (p a) (q a) (_inst_6 a) (_inst_7 a)))
+but is expected to have type
+  Primrec₂.{0, 0, 0} Bool Bool Bool Primcodable.bool Primcodable.bool Primcodable.bool and
+Case conversion may be inaccurate. Consider using '#align primrec.and Primrec.andₓ'. -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:739]: What's the deal with this warning and the next -- was it taken care of?

File: Mathlib/Computability/Primrec.lean [hunk 10]
```diff
@@ -0,0 +1,1618 @@
...
+  (nat_le.comp snd fst).pnot.of_eq fun p => by simp
+#align primrec.nat_lt Primrec.nat_lt
+
+theorem option_guard {p : α → β → Prop} [∀ a b, Decidable (p a b)] (hp : PrimrecRel p) {f : α → β}
+    (hf : Primrec f) : Primrec fun a => Option.guard (p a) (f a) :=
+  ite (hp.comp Primrec.id hf) (option_some_iff.2 hf) (const none)
+#align primrec.option_guard Primrec.option_guard
+
+theorem option_orelse : Primrec₂ ((· <|> ·) : Option α → Option α → Option α) :=
+  (option_cases fst snd (fst.comp fst).to₂).of_eq fun ⟨o₁, o₂⟩ => by cases o₁ <;> cases o₂ <;> rfl
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:784]:
```suggestion
theorem option_orElse : Primrec₂ ((· <|> ·) : Option α → Option α → Option α) :=
  (option_cases fst snd (fst.comp fst).to₂).of_eq fun ⟨o₁, o₂⟩ => by cases o₁ <;> cases o₂ <;> rfl
```

File: Mathlib/Computability/Primrec.lean [hunk 11]
```diff
@@ -0,0 +1,1618 @@
...
+
+namespace Primcodable
+
+variable {α : Type _} {β : Type _}
+
+variable [Primcodable α] [Primcodable β]
+
+open Primrec
+
+/-- A subtype of a primitive recursive predicate is `primcodable`. -/
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:1212]:
```suggestion
/-- A subtype of a primitive recursive predicate is `Primcodable`. -/
```

File: Mathlib/Computability/Primrec.lean [hunk 12]
```diff
@@ -0,0 +1,1618 @@
...
+#align primrec.fin_curry Primrec.fin_curry
+
+end Primrec
+
+namespace Nat
+
+open Vector
+
+/-- An alternative inductive definition of `primrec` which
+  does not use the pairing function on ℕ, and so has to
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:1405]:
```suggestion
/-- An alternative inductive definition of `Primrec` which
  does not use the pairing function on ℕ, and so has to
```

File: Mathlib/Computability/Primrec.lean (hunk 9 above)
Comment (prakol16) [reply Mathlib/Computability/Primrec.lean:739]: I'm not sure what the correct name should be. Previously, it was `band` for booleans and `and` for propositions; now, `band` has changed to `and`, but I'm not sure what the Prop version (`and`) should become. Note these are lemmas, not constructors, so they shouldn't be capitalized. I've temporarily used `pand`, `por`, etc. (`p` for "Prop"), but I'll ask on Zulip.

Comment (prakol16) [reply Mathlib/Computability/Primrec.lean]: Fixed using Eric's suggestion: `pand` moved to namespace `PrimrecPred` (and similarly for others).

File: Mathlib/Computability/Primrec.lean [hunk 13]
```diff
@@ -0,0 +1,1573 @@
...
+    PrimrecPred fun a => ¬p a :=
+  (Primrec.not.comp hp).of_eq fun n => by simp
+#align primrec.not PrimrecPred.not
+
+theorem _root_.PrimrecPred.and {p q : α → Prop} [DecidablePred p] [DecidablePred q] (hp : PrimrecPred p)
+    (hq : PrimrecPred q) : PrimrecPred fun a => p a ∧ q a :=
+  (Primrec.and.comp hp hq).of_eq fun n => by simp
+#align primrec.and PrimrecPred.and
+
+theorem _root_.PrimrecPred.or {p q : α → Prop} [DecidablePred p] [DecidablePred q] (hp : PrimrecPred p)
```
Comment (jcommelin) [inline Mathlib/Computability/Primrec.lean:733]: The style linter complains that these lines are too long.

File: Mathlib/Computability/Primrec.lean [hunk 14]
```diff
@@ -37,35 +36,30 @@ open Denumerable Encodable Function
 
 namespace Nat
 
-/-- The non-dependent recursor on naturals. -/
-def elim {C : Sort _} : C → (ℕ → C → C) → ℕ → C :=
-  @Nat.rec fun _ => C
-#align nat.elim Nat.elim
+#align nat.elim Nat.rec
```
Comment (jcommelin) [inline Mathlib/Computability/Primrec.lean:39]: I think you should also align `nat.elim_zero` and `nat.elim_succ`.

File: Mathlib/Computability/Primrec.lean [hunk 15]
```diff
@@ -37,35 +36,30 @@ open Denumerable Encodable Function
...
-/-- Cases on whether the input is 0 or a successor. -/
-def cases {C : Sort _} (a : C) (f : ℕ → C) : ℕ → C :=
-  Nat.elim a fun n _ => f n
-#align nat.cases Nat.cases
 
-@[simp]
-theorem cases_zero {C} (a f) : @Nat.cases C a f 0 = a :=
-  rfl
-#align nat.cases_zero Nat.cases_zero
+#align nat.cases Nat.casesOn
```
Comment (jcommelin) [inline Mathlib/Computability/Primrec.lean:53]: Idem for `nat.cases_zero` and `nat.cases_succ`.

File: Mathlib/Computability/Primrec.lean [hunk 16]
```diff
@@ -722,162 +720,150 @@ protected theorem or : Primrec₂ or :=
...
-  cases Nat.eq_zero_or_pos k
-  · simp [h, h₃ h] at h₁⊢
-    simp [h₁]
-  · exact (Nat.div_mod_unique h).2 ⟨h₁, h₂ h⟩
-#align primrec.nat_div_mod Primrec.nat_div_mod
-
-theorem nat_div : Primrec₂ ((· / ·) : ℕ → ℕ → ℕ) :=
-  fst.comp₂ nat_div_mod
-#align primrec.nat_div Primrec.nat_div
+-- porting note: this is no longer used
```
Comment (jcommelin) [inline Mathlib/Computability/Primrec.lean:851]: Please add a `#noalign` statement.

File: Mathlib/Computability/Primrec.lean [hunk 17]
```diff
@@ -722,162 +720,150 @@ protected theorem or : Primrec₂ or :=
...
-theorem nat_bit1 : Primrec (@bit1 ℕ _ _) :=
-  nat_add.comp nat_bit0 (const 1)
-#align primrec.nat_bit1 Primrec.nat_bit1
-
-theorem nat_bit : Primrec₂ Nat.bit :=
-  (cond Primrec.fst (nat_bit1.comp Primrec.snd) (nat_bit0.comp Primrec.snd)).of_eq fun n => by
-    cases n.1 <;> rfl
-#align primrec.nat_bit Primrec.nat_bit
-
-theorem nat_div_mod : Primrec₂ fun n k : ℕ => (n / k, n % k) :=
```
Comment (jcommelin) [inline Mathlib/Computability/Primrec.lean]: Is this theorem not ported?

Comment (prakol16) [reply Mathlib/Computability/Primrec.lean]: The original theorem `nat_div_mod` states that computing the pair `(n / k, n % k)` is primitive recursive, and was a helper theorem to prove `nat_div` and `nat_mod`, but I took a different approach (the original proof is 50-60 lines long and had a huge intermediate proof state which I frankly didn't understand; my proof is slightly shorter [40-50 lines], simpler, and more general). This new approach does not require `nat_div_mod` as a lemma.

Note that `nat_div_mod` can easily be recovered as a corollary of `nat_div` and `nat_mod` (both of which are still there):
```
theorem nat_div_mod : Primrec₂ fun n k : ℕ => (n / k, n % k) :=
  pair nat_div nat_mod
```

However, I deleted it because I imagine it in most cases, people need only `nat_div` or `nat_mod` separately, and `nat_div_mod` was just a helper lemma to produce those two. I've added a `noalign` statement here.

File: Mathlib/Computability/Primrec.lean [hunk 18]
```diff
@@ -0,0 +1,1575 @@
...
+  | protected succ : Nat.Primrec succ
+  | left : Nat.Primrec fun n => n.unpair.1
+  | right : Nat.Primrec fun n => n.unpair.2
+  | pair {f g} : Nat.Primrec f → Nat.Primrec g → Nat.Primrec fun n => mkpair (f n) (g n)
+  | comp {f g} : Nat.Primrec f → Nat.Primrec g → Nat.Primrec fun n => f (g n)
+  |
+  prec {f g} :
+    Nat.Primrec f →
+      Nat.Primrec g →
+        Nat.Primrec (unpaired fun z n => n.rec (f z) fun y IH => g <| mkpair z <| mkpair y IH)
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:89]:
```suggestion
  | prec {f g} :
      Nat.Primrec f →
        Nat.Primrec g →
          Nat.Primrec (unpaired fun z n => n.rec (f z) fun y IH => g <| mkpair z <| mkpair y IH)
```

File: Mathlib/Computability/Primrec.lean [hunk 19]
```diff
@@ -0,0 +1,1575 @@
...
+#align primrec.nat_bit0 Primrec.nat_double
+
+-- porting note: bit1 is deprecated
+theorem nat_double_succ : Primrec (fun n : ℕ => 2 * n + 1) :=
+  nat_double |> Primrec.succ.comp
+#align primrec.nat_bit1 Primrec.nat_double_succ
+
+-- porting note: this is no longer used
+-- theorem nat_div_mod : Primrec₂ fun n k : ℕ => (n / k, n % k) := pair nat_div nat_mod
+#noalign primrec.nat_div_mod
```
Comment (dupuisf) [inline Mathlib/Computability/Primrec.lean:868]: Is there a reason to leave this out beyond the fact that it's no longer used in this particular file?

**Review by dupuisf — COMMENTED** [review]
Looks good!

bors d+

File: Mathlib/Computability/Primrec.lean (hunk 19 above)
Comment (prakol16) [reply Mathlib/Computability/Primrec.lean:867]: It was an intermediate lemma previously, used to prove `nat_div` and `nat_mod`. The lemma is not really so meaningful on its own, and it has a very short proof from the others.
